US06495565B2
A suspension of tert-butyl 4-chloro-3-(chloromethyl)-2-butenoate (1.2 g, 5.3 mmol), potassium carbonate (4.0 g, 29 mmol), diethylhydrazine dihydrochloride (1.3 g, 8.0 mmol) and potassium iodide (0.86 g, 5.2 mmol) in acetonitrile was stirred at room temperature for 3 days. The mixture was filtered through celite, concentrated and purified by flash chromatography on silica gel eluting ethyl acetate:hexane (20:80, v;v) to give the tert-butyl (1,2-diethyl-4-pyrazolidinylidene)acetate (1.05 g, 82%) as an oil, MS (M+H)+=241.

reactant | tert-butyl 4-chloro-3-(chloromethyl)-2-butenoate | 5.3 mmol, 1.2 g | ClCC(=CC(=O)OC(C)(C)C)CCl | C9H14Cl2O2
reactant | potassium carbonate | 29 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylhydrazine dihydrochloride | 8.0 mmol, 1.3 g | Cl.Cl.C(C)NNCC
reactant | potassium iodide | 5.2 mmol, 0.86 g | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl (1,2-diethyl-4-pyrazolidinylidene)acetate | 1.05 g, 82% | C(C)N1N(CC(C1)=CC(=O)OC(C)(C)C)CC | C13H24N2O2
